US06452014B1
To a suspension of 2-[4-[cyano(hydroxy)methyl]phenyl]-5,6-dichlorobenzimidazole (275 mg, 0.865 mmol) in tetrahydrofuran (20 mL) was added thionyl chloride (0.38 mL, 5.2 mmol), and the mixture was heated to reflux for 3 h. After cooling to room temperature, water was added and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography (14:1 chloroform/acetonitrile) to afford of 2-[4-[chloro(cyano)methyl]phenyl]-5,6-dichlorobenzimidazole (73 mg, 25%).

reactant | 2-[4-[cyano(hydroxy)methyl]phenyl]-5,6-dichlorobenzimidazole | 0.865 mmol, 275 mg | C(#N)C(C1=CC=C(C=C1)C=1NC2=C(N1)C=C(C(=C2)Cl)Cl)O | C15H9Cl2N3O
reactant | thionyl chloride | 5.2 mmol, 0.38 mL | S(=O)(Cl)Cl | Cl2OS
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-[4-[chloro(cyano)methyl]phenyl]-5,6-dichlorobenzimidazole | 73 mg, 25% | ClC(C1=CC=C(C=C1)C=1NC2=C(N1)C=C(C(=C2)Cl)Cl)C#N | C15H8Cl3N3
